US09260418B2
To a solution of 1-amino-4-bromo-2-naphthoic acid (0.644 g, 2.42 mmol) in 10 mL of acetonitrile cooled to 0° C. was added (1H-1,2,3-benzotriazol-1-yloxy)[tris(dimethylamino)]-phosphonium hexafluorophosphate (1.82 g, 4.12 mmol), O-(7-azabenzotriazol-1yl)-N,N,N,N′-tetramethyluronium hexafluorophosphate (0.921 g, 2.42 mmol), (3R,4S)-3-hydroxytetrahydro-2H-pyran-4-aminium chloride (0.310 g, 2.02 mmol), and triethylamine (0.84 mL, 6.1 mmol). The reaction was warmed to rt and stirred for 4 h. The mixture was diluted with ethyl acetate, washed with dilute aqueous sodium bicarbonate, dried over sodium sulfate, filtered, and concentrated in vacuo to provide crude 1-amino-4-bromo-N-[(3R,4S)-3-hydroxytetrahydro-2H-pyran-4-yl]-2-naphthamide that gave a mass ion (ES+) of 366.9 (81Br) for [M+H]+.

reactant | 1-amino-4-bromo-2-naphthoic acid | 2.42 mmol, 0.644 g | NC1=C(C=C(C2=CC=CC=C12)Br)C(=O)O | C11H8BrNO2
reactant | (1H-1,2,3-benzotriazol-1-yloxy)[tris(dimethylamino)]-phosphonium hexafluorophosphate | 4.12 mmol, 1.82 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | (3R,4S)-3-hydroxytetrahydro-2H-pyran-4-aminium chloride | 2.02 mmol, 0.310 g | [Cl-].O[C@H]1COCC[C@@H]1[NH3+]
reactant | triethylamine | 6.1 mmol, 0.84 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-amino-4-bromo-N-[(3R,4S)-3-hydroxytetrahydro-2H-pyran-4-yl]-2-naphthamide | NC1=C(C=C(C2=CC=CC=C12)Br)C(=O)N[C@@H]1[C@H](COCC1)O | C16H17BrN2O3
